US08809336B2
A solution of N—BOC-piperidone (0.205 g, 1.03 mmol), t-butylsulphinamide (0.13 g, 1.07 mmol) and titanium tetraethoxide (0.42 ml, 2.0 mmol) in dry THF (5 ml) was refluxed under nitrogen for 5 h. The cooled solution was diluted with brine (10 ml) and ethyl acetate (10 ml). The suspension was shaken, the filtered through Celite, washing with ethyl acetate (10 ml). The two-phase filtrate was separated and the organic layer was dried (Na2SO4) filtered and concentrated to give the crude sulphinimine (0.293 g). The crude sulphinimine (0.293 g) was suspended in dry THF (2 ml) and stirred at room temperature under nitrogen. A solution of 3-chlorobenzyl magnesium bromide (ca. 4 mmol) (freshly prepared as a solution in diethyl ether from 3-chlorobenzylbromide and magnesium turnings) was added to give an orange solution. After 3 hours, the mixture was diluted with saturated aqueous ammonium chloride (20 ml) and extracted with ethyl acetate (20 ml). The extract was washed with water (20 ml), brine (10 ml), dried (Na2SO4), filtered and concentrated. Flash column chromatography, eluting with 50% ethyl acetate-hexanes, gave 4-(3-chlorobenzyl)-4-(2-methylpropane-2-sulphinylamino)-piperidine-1-carboxylic acid tert-butyl ester as a straw-coloured foam (0.139 g, 0.324 mmol, 31%). LC-MS (LCT) m/z 451, 453 [M+Na+], Rt 8.22 min.

reactant | N—BOC-piperidone | 1.03 mmol, 0.205 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | t-butylsulphinamide | 1.07 mmol, 0.13 g | C(C)(C)(C)S(=O)N | C4H11NOS
reactant | 3-chlorobenzyl magnesium bromide | ca. 4 mmol | ClC=1C=C(C[Mg]Br)C=CC1
reactant | 3-chlorobenzylbromide | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | magnesium | [Mg] | Mg
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | brine | 10 ml | [Cl-].[Na+].O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ammonium chloride | 20 ml | [Cl-].[NH4+]
catalyst | titanium tetraethoxide | 2.0 mmol, 0.42 ml | [O-]CC.[O-]CC.[O-]CC.[O-]CC.[Ti+4]
product | 4-(3-chlorobenzyl)-4-(2-methylpropane-2-sulphinylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.324 mmol, 0.139 g, 31% | C(C)(C)(C)OC(=O)N1CCC(CC1)(NS(=O)C(C)(C)C)CC1=CC(=CC=C1)Cl | C21H33ClN2O3S
